* source WZMTRANZYSTOROWY
C_CE         0 N00605  600u  
C_C2         OUT N00684  5u  
R_Rg         IN N01464  1.2k  
V_Vcc         N00528 0 9Vdc
R_RB1         N00448 N00528  33k  
R_RB2         0 N00448  15k  
R_RC         N00684 N00528  1.5k  
R_RE         0 N00605  560  
Q_Q2         N00684 N00448 N00605 BC107B 
V_V2         N01464 0 DC 0Vdc AC 0.001Vac 
R_Rw         0 OUT  1.6k  
C_C1         IN N00448  5u  
