* source WZMTRANZYSTOROWY
C_CE         0 N00605  144u  
C_C2         OUT N00684  0.964u  
V_Vcc         N00528 0 12Vdc
R_RB1         N00448 N00528  50.615k  
R_RB2         0 N00448  15.077k  
R_RC         N00684 N00528  1.4867k  
R_RE         0 N00605  552.3  
Q_Q2         N00684 N00448 N00605 BC107B 
V_V2         N01464 0 DC 0Vdc AC 0.01Vac 
R_Rw         0 OUT  1.5955k  
R_Rg         N01464 IN  1.196k  
C_C1         IN N00448  0.964u  
